US08207164B2
i) 5-Cyano-pyridine-2-carboxylic acid [3-((R)-5-amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide
((R)-5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (44.47 g, 91.0 mmol) was dissolved in 450 ml DCM and mildly chilled with a rt water bath. TFA (150 ml) was added. The reaction was slightly exothermic. The mixture was stirred for 1.5 h at rt. The volatiles were removed with vacuum at rt. The residue was taken up in DCM and the procedure repeated twice. The residue was taken up in 3 L EtOAc and washed with 10% aqueous Na2CO3 and brine. The organic phase was dried with sodium sulfate and partially evaporated. iPrOH was added and the mixture chilled. The title compound was collected as snow-white crystals. Yield 30.56 g.

reactant | ((R)-5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 91.0 mmol, 44.47 g | C(C)(C)(C)OC(NC=1COC[C@@](N1)(C(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)C#N)F)=O | C23H22F3N5O4
reactant | TFA | 150 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 450 ml | C(Cl)Cl | CH2Cl2
product | 5-Cyano-pyridine-2-carboxylic acid [3-((R)-5-amino-3-difluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide | NC1=N[C@](COC1)(C(F)F)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)C#N | C18H14F3N5O2
